US07888364B2
N-(4-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-(methylsulfonyl)benzamide (˜1.0 mmol) was used in Procedure A with 5-trifluoromethyl-2-bromopyridine (226 mg, 1 mmol). Purified by silica gel chromatography (0-10% acetone/dichloromethane) to yield N-(4-chloro-3-(5-(trifluoromethyl)pyridin-2-yl)phenyl)-4-(methylsulfonyl)benzamide as a white solid: MS (Q1) 455 (M)+.

reactant | N-(4-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-(methylsulfonyl)benzamide | ˜1.0 mmol | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(=O)(=O)C)=O)B1OC(C(O1)(C)C)(C)C | C20H23BClNO5S
reactant | 5-trifluoromethyl-2-bromopyridine | 1 mmol, 226 mg | FC(C=1C=CC(=NC1)Br)(F)F | C6H3BrF3N
product | N-(4-chloro-3-(5-(trifluoromethyl)pyridin-2-yl)phenyl)-4-(methylsulfonyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(=O)(=O)C)=O)C1=NC=C(C=C1)C(F)(F)F | C20H14ClF3N2O3S
